US05703106
A mixture of 1,2,3-triazole (3.4 ml, 58.7 mmol), potassium carbonate (9.03 g, 65.4 mmol), and 4-fluorobenzaldehyde (6.3 ml, 58.7 mmol) in pyridine (30 ml) is heated under nitrogen atmosphere at reflux overnight. After pyridine is distilled, the mixture is diluted with methylene chloride, filtered and washed with chloroform. The combined filtrate is washed with water, dried over magnesium sulfate, and concentrated in vacuo. The crude material is purified by column chromatography on silica with hexane/ethyl acetate (5:1) to give 4-(1,2,3-triazol-1-yl)-benzaldehyde and with hexane/ethyl acetate (1:2) to give 4-(1,2,3-triazol-1-yl)-benzaldehyde.

reactant | 1,2,3-triazole | 58.7 mmol, 3.4 ml | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 65.4 mmol, 9.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzaldehyde | 58.7 mmol, 6.3 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-(1,2,3-triazol-1-yl)-benzaldehyde | N1(N=NC=C1)C1=CC=C(C=O)C=C1 | C9H7N3O
